US07820704B2
To a solution of [4-(4-isopropyl-phenyl)-pyrimidin-2-yl]-thiophen-2-ylmethyl-amine (50 mg, 0.16 mmol) in DCM (2 mL) was added triethylamine (33 μL, 0.24 mmol) and 4-(ethoxycarbonyl)phenyl isocyanate (34 mg, 0.18 mmol). The resulting reaction mixture was heated in a CEM Exployer PLS™ microwave at 100° C. for 30 min. After cooling to room temperature the solvent was evaporated. Purification was carried out by silica gel chromatography eluting with hexanes/ethyl acetate 9:1 to give 11 mg of 4-{3-[4-(4-Isopropyl-phenyl)-pyrimidin-2-yl}-3-thiophen-2-ylmethyl-ureido}-benzoic acid ethyl ester. LCMS m/z: 502 (M+1)+.

reactant | [4-(4-isopropyl-phenyl)-pyrimidin-2-yl]-thiophen-2-ylmethyl-amine | 0.16 mmol, 50 mg | C(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1)NCC=1SC=CC1 | C18H19N3S
reactant | triethylamine | 0.24 mmol, 33 μL | C(C)N(CC)CC | C6H15N
reactant | 4-(ethoxycarbonyl)phenyl isocyanate | 0.18 mmol, 34 mg | C(C)OC(=O)C1=CC=C(C=C1)N=C=O | C10H9NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-{3-[4-(4-Isopropyl-phenyl)-pyrimidin-2-yl}-3-thiophen-2-ylmethyl-ureido}-benzoic acid ethyl ester | 11 mg | C(C)OC(C1=CC=C(C=C1)NC(=O)N(CC=1SC=CC1)C1=NC=CC(=N1)C1=CC=C(C=C1)C(C)C)=O | C28H28N4O3S
